US06248765B1
3-Cyclopentylpropyl 3-(1H-imidazol-4-yl)propyl ether
5 mmol of sodium 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanolate and 3-cyclopentylphenylpropane chloride are treated as described in Example 5.

reactant | sodium 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanolate | 5 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)CCC[O-])(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | 3-cyclopentylphenylpropane chloride | [Cl-].C1(CCCC1)C=1C=C(C=CC1)CCC
product | 3-Cyclopentylpropyl 3-(1H-imidazol-4-yl)propyl ether | N1C=NC(=C1)CCCOCCCC1CCCC1 | C14H24N2O
